US06265411B1
A solution of 5-cyanooxindole (284 mg, 1.8 mmol), (Tet. Lett., 1987, 28, 4027), in DMF (4 ml) was added dropwise, to sodium hydride (72 mg, 1.8 mmol, prewashed with hexane) in DMF (4 ml) under nitrogen. The mixture was stirred for 15 minutes at ambient temperature and 4-chloro-6-methoxy-7-(2-(pyrrolidin-1-yl)ethoxy)quinazoline (184 mg, 0.6 mmol), (prepared as described for the starting material in Example 28), was added as a solid. The mixture was heated at 60° C. for 45 minutes and then solvent was removed by evaporation. Water was added to the residue and the mixture was adjusted to pH2 with 2M hydrochloric acid. The insolubles were removed by filtration and the filtrate was extracted with ether. The aqueous layer was adjusted to pH8 with 2M aqueous sodium hydroxide solution and was concentrated by evaporation to half initial volume. The precipitate was collected by filtration, washed with water and ether, and dried under vacuum. The solid was dissolved in methylene chloride/methanol and 2.9M ethereal hydrogen chloride was added. The volatiles were removed by evaporation, the solid residue was suspended in ether, collected by filtration, washed with ether and dried under vacuum to give 4-(5-cyanooxindol-3-yl)-6-methoxy-7-(2-(pyrrolidin-1-yl)ethoxy)quinazoline hydrochloride (110 mg, 40%).

reactant | 5-cyanooxindole | 1.8 mmol, 284 mg | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | sodium hydride | 1.8 mmol, 72 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(2-(pyrrolidin-1-yl)ethoxy)quinazoline | 0.6 mmol, 184 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1CCCC1 | C15H18ClN3O2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-(5-cyanooxindol-3-yl)-6-methoxy-7-(2-(pyrrolidin-1-yl)ethoxy)quinazoline hydrochloride | 110 mg, 40% | Cl.C(#N)C=1C=C2C(C(NC2=CC1)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCN1CCCC1 | InChI=1S/C24H23N5O3.ClH/c1-31-20-11-17-19(12-21(20)32-9-8-29-6-2-3-7-29)26-14-27-23(17)22-16-10-15(13-25)4-5-18(16)28-24(22)30;/h4-5,10-12,14,22H,2-3,6-9H2,1H3,(H,28,30);1H
